US06747023B1
1-(tert-Butoxycarbonyl)-4-[(6-chloronaphthalen-2-yl)sulfonyl]-2-(2-cyanoethyl)piperazine
In N,N-dimethylformamide (20 ml) was dissolved 2-(2-bromoethyl)-1-(tert-butoxycarbonyl)-4-[(6-chloronaphthalen -2-yl)sulfonyl]piperazine (980 mg), followed by the addition of sodium cyanide (102 mg). The resulting mixture was stirred overnight at room temperature. The reaction mixture was concentrated under reduced pressure. Ethyl acetate was added to the residue and the resulting mixture was washed with water and saturated aqueous NaCl solution, each once. The organic layer thus extracted was dried over anhydrous sodium sulfate and distilled under reduced pressure to remove the solvent, whereby the title compound (842 mg) was obtained as a colorless foam.

reactant | 2-(2-bromoethyl)-1-(tert-butoxycarbonyl)-4-[(6-chloronaphthalen -2-yl)sulfonyl]piperazine | 980 mg | BrCCC1N(CCN(C1)S(=O)(=O)C1=CC2=CC=C(C=C2C=C1)Cl)C(=O)OC(C)(C)C | C21H26BrClN2O4S
reactant | sodium cyanide | 102 mg | [C-]#N.[Na+]
solvent | N,N-dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
product | 1-(tert-Butoxycarbonyl)-4-[(6-chloronaphthalen-2-yl)sulfonyl]-2-(2-cyanoethyl)piperazine | C(C)(C)(C)OC(=O)N1C(CN(CC1)S(=O)(=O)C1=CC2=CC=C(C=C2C=C1)Cl)CCC#N | C22H26ClN3O4S
